US08372823B2
3-(4-(tert-Butoxycarbonyl(phenyl)amino)phenyl)propanoic acid (S35).
A solution of methyl 3-(4-(tert-butoxycarbonyl(phenyl)amino)phenyl)propanoate (S34), 390 mg, 1.10 mmol) in a mixture of THF/H2O/MeOH (3/1/0.4, 4 mL), was treated with NaOH (100 mg, 2.5 mmol) and was stirred for 4 h at 25° C. The reaction mixture was concentrated, diluted with aqueous 1 N HCl and extracted with CH2Cl2. The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated to afford S35 (370 mg, 1.08 mmol, 99%) as a yellow oil: 1H NMR (CDCl3, 400 MHz) 7.34-7.29 (m, 2H), 7.23-7.15 (m, 7H), 2.94 (t, 2H, J=7.6 Hz), 2.66 (t, 2H, J=7.6 Hz), 1.46 (s, 9H); 13C NMR (CDCl3, 100 MHz) 178.7, 153.9, 142.9, 141.2, 137.6, 128.6, 128.5, 126.9 (2C), 125.6, 81.1, 35.5, 30.0, 28.2.

reactant | methyl 3-(4-(tert-butoxycarbonyl(phenyl)amino)phenyl)propanoate | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)CCC(=O)OC)C1=CC=CC=C1 | C21H25NO4
reactant | NaOH | 2.5 mmol, 100 mg | [OH-].[Na+]
solvent | THF H2O MeOH | 4 mL | C1CCOC1.O.CO
product | 3-(4-(tert-Butoxycarbonyl(phenyl)amino)phenyl)propanoic acid | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)CCC(=O)O)C1=CC=CC=C1 | C20H23NO4
